US05821246
A solution of lithium aluminium hydride (1M in diethyl ether, 16 ml) was added dropwise to a stirred mixture of methyl 4-methoxypyridine-2-carboxylate (2.7 g) and diethyl ether (50 ml). The resultant mixture was heated to reflux for 1 hour. The mixture was treated with potassium sodium tartrate tetrahydrate and extracted with ethyl acetate. The organic phase was dried (MgSO4) and evaporated. The residue was purified by column chromatography using increasingly polar mixtures of methylene chloride and methanol as eluent to give 4-methoxypyrid-2-ylmethanol (0.8 g);

reactant | lithium aluminium hydride | 1M, 16 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-methoxypyridine-2-carboxylate | 2.7 g | COC1=CC(=NC=C1)C(=O)OC | C8H9NO3
reactant | potassium sodium tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-methoxypyrid-2-ylmethanol | 0.8 g, 62% yield | COC1=CC(=NC=C1)CO | C7H9NO2
